US07550468B2
Parahydroxybenzoic acid ethyl ester is dissolved in methanol, added with formalin and acetic acid to react overnight, added to NH3(aq) to obtain para-hydroxy benzoic amide. This product was added with formalin, acetic acid and N7-bromoethyl 3-isobutyl-1-methylxanthine processed through a Mannich reaction to obtain compound 33. Through purification and then dissolution into methanol, add NaOH and ethyl bromide to gain compound 34. Various substitutions can be made to produce other desired compounds. For example, by replacing ethyl bromide with propyl bromide, compound 35 can be obtained. By replacing theophylline with IBMX, compounds 36, 37, and/or 38 can be obtained.

reactant | Parahydroxybenzoic acid ethyl ester | C(C)OC(C1=CC=C(C=C1)O)=O | C9H10O3
reactant | formalin | C=O | CH2O
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | NH3 | N | H3N
solvent | methanol | CO | CH4O
product | para-hydroxy benzoic amide | OC1=CC=C(C(=O)N)C=C1 | C7H7NO2
